US07659268B2
To a solution of methyl 6-bromo-5-nitropyridin-2-ylcarbamate (700 mg, 2.5 mmol) in CH3OH (20 mL) was added NiCl2 (1.2 g, 5.1 mmol) and NaBH4 (300 mg, 7.6 mmol) successively at 0° C. The mixture was stirred for 20 seconds. The reaction mixture was diluted with water and extracted with ethyl acetate (20 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give methyl 5-amino-6-bromopyridin-2-ylcarbamate (600 mg, 96%). 1H NMR (400 MHz, CDCl3) δ 7.75 (d, J=8.4 Hz, 1H), 7.13 (brs, 1H), 7.09 (d, J=8.8 Hz, 1H), 3.81 (s, 3H).

reactant | methyl 6-bromo-5-nitropyridin-2-ylcarbamate | 2.5 mmol, 700 mg | BrC1=C(C=CC(=N1)NC(OC)=O)[N+](=O)[O-] | C7H6BrN3O4
reactant | NaBH4 | 7.6 mmol, 300 mg | [BH4-].[Na+]
solvent | CH3OH | 20 mL | CO | CH4O
solvent | water | O | H2O
catalyst | NiCl2 | 5.1 mmol, 1.2 g | Cl[Ni]Cl
product | methyl 5-amino-6-bromopyridin-2-ylcarbamate | 600 mg, 96% | NC=1C=CC(=NC1Br)NC(OC)=O | C7H8BrN3O2
